US08809267B2
1-({1-[2-(Bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethylbutyryl]-4-[8-chloro-2-(2-isopropylaminothiazol-4-yl)-7-(2-morpholin-4-yl-ethoxy)quinolin-4-yloxy]pyrrolidine-2-carbonyl}-amino)-2-ethyl-cyclopropanecarboxylic acid methyl ester (12 g, 13 mmol) was dissolved in TI-IF (200 ml), LiOH (11 g, 260 mmol) in H2O (200 ml) was added, followed by MeOH (200 ml). The mixture was kept stirring at room temperature for 20 h. Upon completion of the reaction, 4 N HCl in H2O was added to adjust pH to 7 at 0° C. The mixture was extracted with EtOAc (2×400 ml). The combined organic layer was washed with brine, dried (Na2SO4) and concentrated in vacuo to give 1-({1-[2-(bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethyl-butyryl]-4-[8-chloro-2-(2-isopropylamino-thiazol-4-yl)-7-(2-morpholin-4-yl-ethoxy)-quinolin-4-yloxy]-pyrrolidine-2-carbonyl}-amino)-2-ethyl-cyclopropanecarboxylic acid as a yellow solid (11 g, 93% yield). LCMS found 911.52 [M+H]+.

reactant | 1-({1-[2-(Bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethylbutyryl]-4-[8-chloro-2-(2-isopropylaminothiazol-4-yl)-7-(2-morpholin-4-yl-ethoxy)quinolin-4-yloxy]pyrrolidine-2-carbonyl}-amino)-2-ethyl-cyclopropanecarboxylic acid methyl ester | 13 mmol, 12 g | COC(=O)C1(C(C1)CC)NC(=O)C1N(CC(C1)OC1=CC(=NC2=C(C(=CC=C12)OCCN1CCOCC1)Cl)C=1N=C(SC1)NC(C)C)C(C(C(C)(C)C)NC(=O)OC1CC2CC2C1)=O | C46H62ClN7O9S
reactant | LiOH | 260 mmol, 11 g | [Li+].[OH-]
reactant | MeOH | 200 ml | CO | CH4O
reactant | HCl | 4 N | Cl | ClH
solvent | H2O | 200 ml | O | H2O
product | 1-({1-[2-(bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethyl-butyryl]-4-[8-chloro-2-(2-isopropylamino-thiazol-4-yl)-7-(2-morpholin-4-yl-ethoxy)-quinolin-4-yloxy]-pyrrolidine-2-carbonyl}-amino)-2-ethyl-cyclopropanecarboxylic acid | 11 g, 93% yield | C12CC(CC2C1)OC(=O)NC(C(=O)N1C(CC(C1)OC1=CC(=NC2=C(C(=CC=C12)OCCN1CCOCC1)Cl)C=1N=C(SC1)NC(C)C)C(=O)NC1(C(C1)CC)C(=O)O)C(C)(C)C | C45H60ClN7O9S
